### ISSUE TITLE
[RFC] use expected type in apply

### ISSUE THREAD

**Issue by alexjbest** [leanprover/lean4#2339]
### Description

I would like to be able to use expected type dot notation with the apply tactic, i.e. `apply .blah` will use the expected type of the goal to resolve the prefix of `.blah`

For example in the following code `refine` resolves `.t_of` to `Foo.prop.t_of` but apply does not.
```
axiom Foo : Type
axiom Foo.prop : Foo → Prop
axiom Foo.t : Foo → Foo 
axiom Foo.prop.t_of {l : Foo} (h : l.prop) : (t l).prop
open Foo

axiom a : Foo
example : prop (t a) := by
  refine .t_of ?_
  sorry
example : prop (t a) := by
  apply .t_of -- invalid dotted identifier notation, expected type is not of the form (... → C ...) where C is a constant
  sorry
```

### Implementation

I believe implementing this would be relatively simple. `elabTermForApply` and `resolveId?` could take an optional `expectedType?` argument, which could then be passed on to `resolveName`, I do not know yet what other consequences this would have.

I would be happy to work on this and test that it doesn't break existing code anywhere if it is a desired feature

**Comment by kmill** [comment]
It would also be nice to support using `apply` with eliminators (like `apply Nat.casesOn n`). It seems like both are similar, where we want to elaborate the term with with a weaker notion of an expected type — all we expect is that the elaborated value is "apply-compatible" with the type.

Though maybe for eliminators it's enough to just turn off elabAsElim in `apply`, since `apply` does a decent job doing higher-order unification.
